US05840753
To a solution of 5 g (0.0122 mole) of ethyl (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)prop-2-enoate, prepared in example 4, in 10 ml of ethanol are added 11 ml (0.011 mole) of 1M sodium hydroxide. The mixture is heated for 2 hours under reflux, then evaporated to dryness in vacuo. The crystals obtained are washed with ethyl acetate and with ethyl ether and then dried to provide 4.5 g of sodium (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)prop-2-enoate as crystals with a melting point of 257°-259° C.

reactant | ethyl (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)prop-2-enoate | 0.0122 mole, 5 g | ClC1=CC=C(C=C1)\C(=C(/C(=O)OCC)\CCO)\C1=CC=C(C=C1)S(=O)(=O)C | C20H21ClO5S
reactant | sodium hydroxide | 0.011 mole, 1M, 11 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | sodium (Z)-3-(4-chlorophenyl)-3-(4-methanesulfonylphenyl)-2-(2-hydroxyethyl)prop-2-enoate | 4.5 g | ClC1=CC=C(C=C1)\C(=C(/C(=O)[O-])\CCO)\C1=CC=C(C=C1)S(=O)(=O)C.[Na+] | InChI=1S/C18H17ClO5S.Na/c1-25(23,24)15-8-4-13(5-9-15)17(16(10-11-20)18(21)22)12-2-6-14(19)7-3-12;/h2-9,20H,10-11H2,1H3,(H,21,22);/q;+1/p-1/b17-16+;
